US07465415B2
A photochromic group initiator (represented by structure 1.3 in Table 1 above) was prepared as follows. Step 1: 4-fluoro-4′-(2-hydroxyethoxy)-benzophenone from Part A, Step 1 of Example 7 (below) (7-974) (43.3 grams) and acetylene saturated N,N-dimethylformamide (130 mL) were combined in a reaction flask. Reaction flask was cooled in an ice bath. Sodium acetylide solution (9% by weight in toluene, 221 grams) was added to the cooled reaction mixture dropwise over 30 minutes. The ice bath was removed and the reaction mixture was allowed to warm to room temperature. The reaction mixture was poured into ice water (450 mL) and diethyl ether (300 mL) was added to it. The layers were phase separated and the aqueous layer was extracted one time with diethyl ether (300 mL) and twice with ethyl acetate (300 mL each). The organic layers were combined, dried over anhydrous sodium sulfate, and concentrated by rotary evaporation. The resulting residue was purified by column chromatography on silica gel (600 grams) eluting with a mixture of 45% ethyl acetate in hexanes. The fractions containing pure desired product were combined and concentrated by rotary evaporation to yield 30.1 grams of 1-(4-fluorophenyl)-1-(4′-(2-hydroxyethoxy)phenyl)-2-propyn-1-ol.

reactant | 4-fluoro-4′-(2-hydroxyethoxy)-benzophenone | FC1=CC=C(C(=O)C2=CC=C(C=C2)OCCO)C=C1 | C15H13FO3
reactant | Sodium acetylide | 221 grams | [C-]#[C-].[Na+].[Na+]
solvent | acetylene | 130 mL | C#C | C2H2
product | 1-(4-fluorophenyl)-1-(4′-(2-hydroxyethoxy)phenyl)-2-propyn-1-ol | 30.1 grams | FC1=CC=C(C=C1)C(C#C)(O)C1=CC=C(C=C1)OCCO | C17H15FO3
